US07638629B2
Step 1: 2-Methyl-N-{1-[4-(trifluoromethyl)phenyl]but-3-en-1-yl}propane-2-sulfinamide
2-Methyl-N-{[4-(trifluoromethyl)phenyl]methylene}propane-2-sulfinamide (prepared according to the procedure described in Example 99 step 1, using 4-(trifluoromethyl)benzaldehyde) (5 g, 0.18 mol) was dissolved in CH2Cl2 and the solution cooled to −50° C. Allylmagnesium bromide (10.8 mL, 2M in THF, 0.22 mol) was added dropwise and the resulting solution was stirred at 0° C. for 30 min. The mixture was quenched with NH4Cl and diluted with water and was extracted with CH2Cl2. The organic layer was separated and was washed with brine, then dried (MgSO4) and concentrated in vacuo to give the product as a 3:2 mixture of diastereoisomers.

reactant | 2-Methyl-N-{[4-(trifluoromethyl)phenyl]methylene}propane-2-sulfinamide | CC(C)(C)S(=O)N=CC1=CC=C(C=C1)C(F)(F)F | C12H14F3NOS
reactant | 4-(trifluoromethyl)benzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | Allylmagnesium bromide | 0.22 mol, 2M, 10.8 mL | C(C=C)[Mg]Br
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Methyl-N-{1-[4-(trifluoromethyl)phenyl]but-3-en-1-yl}propane-2-sulfinamide | CC(C)(C)S(=O)NC(CC=C)C1=CC=C(C=C1)C(F)(F)F | C15H20F3NOS
